US07906517B2
Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (3 g) and pyridine (580 μl) are dissolved in methylene chloride (45 ml), and thereto is added trifluoromethanesulfonic anhydride (1.2 ml) under ice-cooling, and the mixture is stirred under nitrogen atmosphere for 2 hours. The reaction solution is cooled to room temperature, and thereto are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-trifluoromethanesulfonyloxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (3.44 g). MS (m/z): 758 [M+H]+

reactant | Ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 3 g | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C27H24F9N3O4
reactant | pyridine | 580 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.2 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-trifluoromethanesulfonyloxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 3.44 g | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)OS(=O)(=O)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C28H23F12N3O6S
